US08293768B2
Synthesis of 2-(3-(2-cyclopropylethyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid
Following the procedure as described in Example 6, making variations as required to replace ethyl 4-methyl-2-(2-oxo-3-phenylimidazolidin-1-yl)thiazole-5-carboxylate with ethyl 2-(3-(2-cyclopropylethyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylate, the title compound was obtained in 88% yield: 1H NMR (300 MHz, DMSO-d6) δ 4.20-3.04 (m, 6H), 2.45 (s, 3H), 1.50-1.41 (m, 2H), 0.78-0.54 (m, 1H), 0.43-0.28 (m, 2H), 0.10-0.96 (m, 2H); MS (ES+) m/z 296.2 (M+1).

reactant | ethyl 4-methyl-2-(2-oxo-3-phenylimidazolidin-1-yl)thiazole-5-carboxylate | CC=1N=C(SC1C(=O)OCC)N1C(N(CC1)C1=CC=CC=C1)=O | C16H17N3O3S
reactant | ethyl 2-(3-(2-cyclopropylethyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylate | C1(CC1)CCN1C(N(CC1)C=1SC(=C(N1)C)C(=O)OCC)=O | C15H21N3O3S
product | 2-(3-(2-cyclopropylethyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | 88% yield | C1(CC1)CCN1C(N(CC1)C=1SC(=C(N1)C)C(=O)O)=O | C13H17N3O3S
